US09376422B2
Step 1: Synthesis of methyl 5-methoxy-2-methyl-3-nitrobenzoate
To a stirred solution of 5-hydroxy-2-methyl-3-nitrobenzoic acid (1.50 g, 7.61 mmol) in DMF (15 mL) was added sodium carbonate (3.23 g, 30.5 mmol) and methyl iodide (1.88 mL, 30.5 mmol). The resulting reaction mixture was heated at 60° C. for 8 h. On completion, the reaction mixture was diluted with water and extraction was carried out using ethyl acetate. The combined organic layers were dried and concentrated under reduced pressure to give the crude title compound (1.7 g) which was used directly in the next step.

reactant | 5-hydroxy-2-methyl-3-nitrobenzoic acid | 7.61 mmol, 1.50 g | OC=1C=C(C(=C(C(=O)O)C1)C)[N+](=O)[O-] | C8H7NO5
reactant | sodium carbonate | 30.5 mmol, 3.23 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 30.5 mmol, 1.88 mL | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 5-methoxy-2-methyl-3-nitrobenzoate | 1.7 g | COC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C10H11NO5
